* Generated by electronics_design from a KiCad schematic
* KICAD_SINGLETON_LABEL _Y0
* KICAD_SINGLETON_LABEL _Y3
* KICAD_SINGLETON_LABEL _Y5
* KICAD_SINGLETON_LABEL _Y6
* KICAD_SINGLETON_LABEL _Y9
* KICAD_SINGLETON_LABEL _Y10
* KICAD_SINGLETON_LABEL _Y12
* KICAD_SINGLETON_LABEL _Y15
.include "74HC138m.lib"
.include "74HC74m.lib"
.include "74HC04m.lib"
.include "74HC20m.lib"
.include "74HC86m.lib"
XU4 Q3 Q2 Q1 clk 0 Q4 _Y15 0 _Y14 _Y13 _Y12 _Y11 _Y10 _Y9 _Y8 N+5V 74HC138M
XU1 N+5V A clk N+5V Q1 NC_U1_1_6 NC_U1_1_7 NC_U1_1_8 Q3 N+5V clk Q1 N+5V NC_U1_1_14 74HC74M
XU2 N+5V B clk N+5V Q2 NC_U2_2_6 NC_U2_2_7 NC_U2_2_8 Q4 N+5V clk Q2 N+5V NC_U2_2_14 74HC74M
XU7 D N010 N010 AD U N011 NC_U7_3_7 AU N011 NC_U7_3_10 NC_U7_3_11 NC_U7_3_12 NC_U7_3_13 NC_U7_3_14 74HC04M
XU3 Q1 Q2 Q3 clk Q4 N+5V _Y7 0 _Y6 _Y5 _Y4 _Y3 _Y2 _Y1 _Y0 N+5V 74HC138M
R100 AD 0 1Meg
V_PWR0123 N+5V 0 +5V
V_PWR0118 N+5V 0 +5V
V_PWR0105 N+5V 0 +5V
V_PWR0114 N+5V 0 +5V
XU5 _Y2 _Y4 _Y13 _Y14 D NC_U5_17_7 U _Y1 _Y7 _Y8 _Y11 NC_U5_17_14 74HC20M
V_PWR0104 N+5V 0 +5V
R1 N012 N013 10k
V_PWR0117 N+5V 0 +5V
V_PWR0115 N+5V 0 +5V
Vb2 N008 0 PULSE(0 {VCC} 9.5m 1n 1n 1m 2m)
V_PWR0102 N+5V 0 +5V
V_PWR0122 N+5V 0 +5V
V_PWR0103 N+5V 0 +5V
XU6 A B N012 N013 N+5V N003 NC_U6_32_7 N005 N+5V N004 clk N012 N005 NC_U6_32_14 74HC86M
V_PWR0121 N+5V 0 +5V
C2 N004 0 3.3n
V5 N+5V 0 {VCC}
V_PWR0110 N+5V 0 +5V
Va2 N009 0 PULSE(0 {VCC} 10m 1n 1n 1m 2m)
Va1 A N009 PULSE(0 {VCC} 0.5m 1n 1n 1m 2m)
R101 AU 0 1Meg
Vb1 B N008 PULSE(0 {VCC} 1m 1n 1n 1m 2m)
V_PWR0124 N+5V 0 +5V
C1 N013 0 3.3n
V_PWR0101 N+5V 0 +5V
R2 N003 N004 10k
.param VCC=5
.ic v(net-_c1-pad1_) = 0
.tran 1
.backanno
.end
